US04873019
4.0 g of trans-3-n-pentylcyclopentanecarbonyl chloride (obtainable from 5-n-pentylcyclohexanone through chlorination, Faworski rearrangement of the α-chloroketone using sodium alcoholate in ether, hydrolysis of the ethyl 3-n-pentylcyclopentanecarboxylate, alkaline isomerization of the acid and subsequent reaction with thionyl chloride) are added dropwise at 100° to a solution of 4.4 g of 4-(trans-4-n-propylcyclohexyl)-phenol and 1.6 g of pyridine in 10 ml of toluene. The mixture is allowed to react for a further 3 hours, the pyridine hydrochloride is filtered off under suction, the filtrate is washed with water and dried, and the solvent is evaporated. The residue is crystallized from ethanol. 4-(trans-4-propylcyclohexyl)-phenyl trans-3-pentylcyclopentanecarboxylate is obtained; smectic B/isotropic phase transition: 49°.

reactant | trans-3-n-pentylcyclopentanecarbonyl chloride | 4.0 g | C(CCCC)[C@@H]1C[C@H](CC1)C(=O)Cl | C11H19ClO
reactant | 5-n-pentylcyclohexanone | C(CCCC)C1CCCC(C1)=O | C11H20O
reactant | ethyl 3-n-pentylcyclopentanecarboxylate | C(CCCC)C1CC(CC1)C(=O)OCC | C13H24O2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-(trans-4-n-propylcyclohexyl)-phenol | 4.4 g | C(CC)[C@@H]1CC[C@H](CC1)C1=CC=C(C=C1)O | C15H22O
solvent | ether | CCOCC | C4H10O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 1.6 g | N1=CC=CC=C1 | C5H5N
product | 4-(trans-4-propylcyclohexyl)-phenyl trans-3-pentylcyclopentanecarboxylate | C(CCCC)[C@@H]1C[C@H](CC1)C(=O)OC1=CC=C(C=C1)[C@@H]1CC[C@H](CC1)CCC | C26H40O2
